US07247625B2
6-[(2-chlorophenyl)amino]-1,4,4-trimethyl-1,4-dihydro-2H-3,1-benzoxazin-2-one
Prepared from 6-amino-1,4,4-trimethyl-1,4-dihydro-2H-3,1-benzoxazin-2-one and 2-chlorophenyl boronic acid according to the coupling procedure described in example 1. MS (ESI) m/z [M+H]+ (317/319); MS (ESI) m/z [M−H]− (315/317); Anal. calcd for C17H17ClN2O2: C, 64.46; H, 5.41; N8.84. Found: C, 64.42; H, 5.29; N8.76.

reactant | 6-amino-1,4,4-trimethyl-1,4-dihydro-2H-3,1-benzoxazin-2-one | NC=1C=CC2=C(C(OC(N2C)=O)(C)C)C1 | C11H14N2O2
reactant | 2-chlorophenyl boronic acid | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
product | 6-[(2-chlorophenyl)amino]-1,4,4-trimethyl-1,4-dihydro-2H-3,1-benzoxazin-2-one | ClC1=C(C=CC=C1)NC=1C=CC2=C(C(OC(N2C)=O)(C)C)C1 | C17H17ClN2O2
